US07355052B2
Stage 6: 1-(3-aminopropyl)-6-(piperidin-1-ylcarbonyl)-N-(3,4,5-trimethoxyphenyl)-1H-benzimidazol-2-amine dihydrochloride
A solution of carbonyldiimidazole (CDI) (18 mg, 1.1 eq) in chloroform (0.2 ml) is added to a solution of 1-{3-[(tert-butoxycarbonyl)amino]propyl}-2-[(3,4,5-trimethoxyphenyl)amino]-1H-benzimidazole-6-carboxylic acid (50 mg, 1 eq) in tetrahydrofuran (0.45 ml) and dimethylformamide (0.05 ml). The mixture is stirred for 16 hours at a temperature of approximately 20° C., then a solution of piperidine (17 mg, 2 eq) in tetrahydrofuran (0.2 ml) is added. After stirring for 18 hours at a temperature of approximately 20° C., the mixture is diluted with dichloromethane (3 ml), and aminomethylpolystyrene resin (2 eq), TBD-methyl-polystyrene resin (2 eq) and methylisothiocyanate-polystyrene resin (4 eq) are added. After stirring for 6 hours at approximately 20° C., the mixture is filtered and the filtrate is concentrated under reduced pressure at 40° C. The residue obtained is dissolved in ethyl acetate (0.5 ml) and a solution of hydrochloric acid (1N in diethyl ether, 3 ml) is added. After stirring for 1 hour at a temperature of approximately 20° C., the precipitate obtained is filtered and dried in order to produce the expected compound (35 mg, 65%).

reactant | carbonyldiimidazole | 18 mg, 1.1 eq | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1-{3-[(tert-butoxycarbonyl)amino]propyl}-2-[(3,4,5-trimethoxyphenyl)amino]-1H-benzimidazole-6-carboxylic acid | 50 mg, 1 eq | C(C)(C)(C)OC(=O)NCCCN1C(=NC2=C1C=C(C=C2)C(=O)O)NC2=CC(=C(C(=C2)OC)OC)OC | C25H32N4O7
reactant | piperidine | 17 mg, 2 eq | N1CCCCC1 | C5H11N
reactant | hydrochloric acid | 1N, 3 ml | Cl | ClH
solvent | chloroform | 0.2 ml | C(Cl)(Cl)Cl | CHCl3
solvent | tetrahydrofuran | 0.45 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 0.05 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 0.2 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 0.5 ml | C(C)(=O)OCC | C4H8O2
product | 1-(3-aminopropyl)-6-(piperidin-1-ylcarbonyl)-N-(3,4,5-trimethoxyphenyl)-1H-benzimidazol-2-amine dihydrochloride | 35 mg, 65% | Cl.Cl.NCCCN1C(=NC2=C1C=C(C=C2)C(=O)N2CCCCC2)NC2=CC(=C(C(=C2)OC)OC)OC | InChI=1S/C25H33N5O4.2ClH/c1-32-21-15-18(16-22(33-2)23(21)34-3)27-25-28-19-9-8-17(14-20(19)30(25)13-7-10-26)24(31)29-11-5-4-6-12-29;;/h8-9,14-16H,4-7,10-13,26H2,1-3H3,(H,27,28);2*1H
